US07446186B2
The synthesis of 1-(N-tosyl)-3-(hydroxyethyl)pyrrole was carried out as described by Korri-Youssoufi et al., Materials Science and Engineering C15 (2001) 265-268. In a first step, 1-(N-tosyl) pyrrole was synthesized from pyrrole using tosyl chloride in the presence of a strong base, potassium tert-butoxide. Next, acylation of the 1-(N-tosyl)pyrrole with acetic anhydride made it possible to obtain 1-tosyl-3-acetylpyrrole, which was converted to methyl 2-[3-(1-N-tosylpyrrole)]acetate by oxidative transposition, using thallium nitrate in the presence of montmorillonite. Reduction under mild conditions with borane dimethyl sulfide gave the desired product, 1-(N-tosyl)-3-(hydroxyethyl)pyrrole. The overall yield of the reaction was 21.8%.

reactant | pyrrole | N1C=CC=C1 | C4H5N
reactant | tosyl chloride | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 1-tosyl-3-acetylpyrrole | S(=O)(=O)(C1=CC=C(C)C=C1)N1C=C(C=C1)C(C)=O | C13H13NO3S
